US05795984
According to the same manner as in Example 4, except that the flask was changed to 300 ml flask, laurylpyridinium chloride was not used, 103 g of water was added, and that amounts of toluene, phosgene and 4-chloroanthranilic acid were changed to 34 g, 40 g and 35 g, respectively, 35.6 g of 7-chloroisatoic anhydride (purity: 73.8%) was obtained. The yield was 67% and the volume efficiency was 9 g/100 ml.

reactant | laurylpyridinium chloride | [Cl-].C(CCCCCCCCCCC)[N+]1=CC=CC=C1
reactant | water | 103 g | O | H2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-chloroanthranilic acid | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-chloroisatoic anhydride | 35.6 g, yield was 67% | C1=CC2=C(C=C1Cl)NC(=O)OC2=O | C8H4ClNO3
